US08686005B2
2-(6-Bromo-3-methoxy-2-methoxymethoxy-phenyl)-5,5-dimethyl-[1,3]dioxane:
To the solution of 3-bromo-2-(5,5-dimethyl-[1,3]dioxan-2-yl)-6-methoxy-phenol in DCM (20 mL) was added DIEA (697 μL, 4 mmol), followed by addition of chloromethoxymethane (228 μL, 3 mmol). After it was stirred at the room temperature for 72 h, the reaction mixture was evaporated and the residue was partitioned between NaHCO3 (50 mL) solution and EtOAc (40 mL). The aqueous layer was extracted with EtOAc (3×10 mL) and the combined extracts were washed with brine and dried through Na2SO4. Evaporation of solvent afforded the title compound. 1H NMR (CDCl3) δ 0.80 (s, 3H), 1.45 (s, 3H), 3.57 (s, 3H), 3.65 (d, J=12 Hz, 2H), 3.79 (s, 3H), 3.80 (d, J=12 Hz, 2H), 5.11 (s, 2H), 6.00 (s, 1H), 6.76 (d, J=8 Hz, 1H), 7.32 (d, J=8 Hz, 1H).

reactant | 3-bromo-2-(5,5-dimethyl-[1,3]dioxan-2-yl)-6-methoxy-phenol | BrC=1C(=C(C(=CC1)OC)O)C1OCC(CO1)(C)C | C13H17BrO4
reactant | DIEA | 4 mmol, 697 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloromethoxymethane | 3 mmol, 228 μL | ClCOC | C2H5ClO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-Bromo-3-methoxy-2-methoxymethoxy-phenyl)-5,5-dimethyl-[1,3]dioxane | BrC1=CC=C(C(=C1C1OCC(CO1)(C)C)OCOC)OC | C15H21BrO5
